US07459577B2
To the silane mixture comprising dimethylmethoxychlorosilane as produced by the disproportionation reaction in (a) above, was added 150 ml of toluene to dissolve the silanes in toluene, and to give a toluene solution of said silane mixture. To the toluene solution was added dropwise the THF solution of tert-butyl magnesium chloride as produced in Example 20, through a dropping funnel, at 40° C.-50° C. over 1 hour. Then, the resulting mixture was stirred at 70° C. for 4 hours. The Grignard reagent could react with dimethylmethoxychlorosilane contained in the said toluene solution, to produce tert-butyldimethylmethoxysilane.

reactant | tert-butyl magnesium chloride | C(C)(C)(C)[Mg]Cl
reactant | isopropyl magnesium chloride | C(C)(C)[Mg]Cl
reactant | dimethylmethoxychlorosilane | C[Si](Cl)(OC)C | C3H9ClOSi
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyldimethylmethoxysilane | C(C)(C)(C)[Si](OC)(C)C | C7H18OSi
